US04186135
250 ml of water and 300 ml of cyclohexylamine were put into a 1-liter balloon flask. 139 g of moist 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid were added by fractions, the temperature being maintained at from 20°-30° C. The mixture was stirred at room temperature for three hours and then the solution was treated with 30 g of black carbon 3S. After filtration, 300 ml of hydrochloric acid (d=1.18) were added. The precipitate was recrystallized, washed with water and dried. 92 g of 7-cyclohexylsulfamoyl-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 150° C.).

reactant | cyclohexylamine | 300 ml | C1(CCCCC1)N | C6H13N
reactant | 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid | 139 g | ClS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO6S
solvent | water | 250 ml | O | H2O
product | 7-cyclohexylsulfamoyl-1,4-benzodioxane-5-carboxylic acid | 92 g | C1(CCCCC1)NS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C15H19NO6S
